US08735379B2
To a solution of methyl 5-(2-docosa-4,7,10,13,16,19-hexaenamido-4-methylpentanamido)-2-hydroxybenzoate (155 mg, 0.26 mmol) in MeOH (3 mL) was added 2M NaOH (5 mL). The mixture was heated (45-50° C., 16 h), and then cooled to RT. 2M HCl was added dropwise to adjust pH=1. The mixture was then extracted by EA (3×20 mL). The combined organic layers were washed with brine, dried over MgSO4 and concentrated under reduced pressure. The crude product was purified by silica chromatography (MeOH/DCM, 0-10%) to afford of 5-(2-docosa-4,7,10,13,16,19-hexaenamido-4-methylpentanamido)-2-hydroxybenzoic acid as light yellow oil (92 mg, 61%). Mass calculated for C35H48N2O5=576.77. found: [M+H]+=577.3.

reactant | methyl 5-(2-docosa-4,7,10,13,16,19-hexaenamido-4-methylpentanamido)-2-hydroxybenzoate | 0.26 mmol, 155 mg | C(CCC=CCC=CCC=CCC=CCC=CCC=CCC)(=O)NC(C(=O)NC=1C=CC(=C(C(=O)OC)C1)O)CC(C)C | C36H50N2O5
reactant | NaOH | 2M, 5 mL | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
product | 5-(2-docosa-4,7,10,13,16,19-hexaenamido-4-methylpentanamido)-2-hydroxybenzoic acid | 92 mg, 61% | C(CCC=CCC=CCC=CCC=CCC=CCC=CCC)(=O)NC(C(=O)NC=1C=CC(=C(C(=O)O)C1)O)CC(C)C | C35H48N2O5
